US06407096B1
Methyl 3-(2-hydroxyethyl)-2,3-dihydrobenzofuran-7-yloxyacetate
7-hydroxy-3-(2-hydroxyethyl)benzofuran (7.01 g) was dissolved in dimethylformamide (100 ml), and potassium carbonate (5.76 g) and methyl bromoacetate (4.74 ml) were added to the resultant solution, and the mixture was stirred at room temperature for 21 hours. The reaction solution was filtered with Celite, and the filtrate was concentrated. Ethyl acetate (300 ml) was added to the residue, and then the mixture was washed with water and saturated brine, and dried over sodium sulfate. After sodium sulfate was filtered off, the filtrate was concentrated, and the residue was dissolved in methanol (100 ml). 5% Pd/C (1.0 g), and acetic acid (5 ml) were added to the resultant solution, and the mixture was stirred at room temperature for 23 hours under a hydrogen atmosphere. The reaction solution was filtered with Celite, and the filtrate was concentrated. Ethyl acetate (300 ml) was added to the residue, and the mixture was washed with water and saturated brine, and dried over sodium sulfate. After sodium sulfate was filtered off, the filtrate was concentrated, and the residue was purified by flash column chromatography using silica gel (elution solvent:hexane/ethyl acetate=1/2) to obtain the object compound (7.80 g, yield 74%).

reactant | 7-hydroxy-3-(2-hydroxyethyl)benzofuran | 7.01 g | OC1=CC=CC=2C(=COC21)CCO | C10H10O3
reactant | potassium carbonate | 5.76 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl bromoacetate | 4.74 ml | BrCC(=O)OC | C3H5BrO2
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | Methyl 3-(2-hydroxyethyl)-2,3-dihydrobenzofuran-7-yloxyacetate | 7.80 g, yield 74% | OCCC1COC2=C1C=CC=C2OCC(=O)OC | C13H16O5
